US07855292B2
A. Diethylthiocarbamic acid O-quinoxalin-5-yl ester
A mixture of 5-hydroxyquinoxaline (2.13 g, 14.6 mmol), finely ground K2CO3 (4.0 g, 29 mmol), and DMF (50 mL) was stirred at 23° C. for 1 h. Solid diethylthiocarbamoyl chloride (2.43 g, 16.1 mmol) was then added. The resulting mixture was stirred for 2 h, then was diluted with water (150 mL) and extracted with Et2O (2×100 mL). The combined organic extracts were washed with water (100 mL) and brine (100 mL), then dried and concentrated to a viscous orange oil, which was used without purification (3.63 g, 95%). MS (ESI+): mass calcd. for C13H15N3OS, 261.1; m/z found, 262 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.85-8.65 (m, 2H), 7.96 (dd, J=8.5, 1.1, 1H), 7.71 (t, J=7.9, 1H), 7.46 (dd, J=7.6, 1.2, 1H), 3.87 (q, J=7.1, 2H), 3.78 (q, J=7.1, 2H), 1.38 (t, J=7.1, 3H), 1.28 (t, J=7.1, 3H). 13C NMR (125 MHz, CDCl3): 186.6, 149.4, 144.9, 144.5, 143.4, 137.0, 128.9, 127.0, 123.1, 48.2, 44.5, 13.1, 11.5.

reactant | 5-hydroxyquinoxaline | 14.6 mmol, 2.13 g | OC1=C2N=CC=NC2=CC=C1 | C8H6N2O
reactant | K2CO3 | 29 mmol, 4.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | diethylthiocarbamoyl chloride | 16.1 mmol, 2.43 g | C(C)N(C(=S)Cl)CC | C5H10ClNS
solvent | water | 150 mL | O | H2O
product | Diethylthiocarbamic acid O-quinoxalin-5-yl ester | N1=CC=NC2=C(C=CC=C12)OC(N(CC)CC)=S | C13H15N3OS
